US05418229
Preparation 4 N-(3-Methylphenethyl)methylamine
A mixture of 3-methylphenethyl bromide (2.22 g) and 33% ethanolic methylamine solution (30 ml) was heated in a bomb at 80° C. for 16 hours and evaporated. The residue was partitioned between water and dichloromethane and the organic layer dried over MgSO4 and evaporated. The residue was purified by 421 chromatography on silica using dichloromethane plus 0-10% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound as a colourless oil, 0.44 g (27%), which was used directly in the preparation of Example 21 without characterisation.

reactant | 3-methylphenethyl bromide | 2.22 g | CC=1C=C(CCBr)C=CC1 | C9H11Br
reactant | methylamine | 30 ml | CN | CH5N
product | N-(3-Methylphenethyl)methylamine | CC=1C=C(CCCN)C=CC1 | C10H15N
